US07737166B2
4-Cyano-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-6-carboxylic acid (I-316)
2-Cyclopropyl-7-fluoro-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile (I-182) (160 mg, 0.66 mmol) was dissolved in tert-butanol (4.5 ml)-water (3 ml)-tetrahydrofuran (3 ml), then at 0° C., sodium dihydrogenphosphate dihydrate (153 mg, 0.98 mmol), 2-methyl-2-butene (292 μl, 2.62 mmol), sodium chlorite (purity 80%, 222 mg, 1.97 mmol) were added. This was stirred for 15 hours with gradually warming up to room temperature. At 0° C., aqueous 1 N hydrochloric acid solution and ethyl acetate were added to the reaction liquid, followed by stirring at the same temperature for 10 minutes. The aqueous layer was separated, and extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away to obtain the entitled compound. This was used in the next reaction as such.

reactant | 2-Cyclopropyl-7-fluoro-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.66 mmol, 160 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=O)C)C#N | C13H9FN2O2
reactant | sodium dihydrogenphosphate dihydrate | 0.98 mmol, 153 mg | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 2.62 mmol, 292 μl | CC(C)=CC | C5H10
reactant | sodium chlorite | 1.97 mmol, 222 mg | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tert-butanol | 4.5 ml | C(C)(C)(C)O | C4H10O
solvent | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-6-carboxylic acid | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)F)C(=O)O)C | C13H9FN2O3
